US06387912B1
b) 2-Ethoxymethyleneamino-3,5-dicarboethoxy-4,6-dihydrothieno-[3,2-c]pyrrole
0.3 ml of acetic anhydride was added to 1.4 g (4.8 mmol) of 2-amino-3,5-dicarboethoxy-4,6-dihydrothieno[3,2-c]pyrrole in 14 ml of triethyl orthoformate, and the mixture was boiled under nitrogen and at reflux for 1 h. After that, the mixture was evaporated right down at 80° C. on a rotary evaporator. 1.6 g (99%) of crude product were isolated as a viscous oil, which is sufficiently pure for further reaction.

reactant | acetic anhydride | 0.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-3,5-dicarboethoxy-4,6-dihydrothieno[3,2-c]pyrrole | 4.8 mmol, 1.4 g | NC1=C(C=2CN(CC2S1)C(=O)OCC)C(=O)OCC | C12H16N2O4S
solvent | triethyl orthoformate | 14 ml | C(OCC)(OCC)OCC | C7H16O3
product | 2-Ethoxymethyleneamino-3,5-dicarboethoxy-4,6-dihydrothieno-[3,2-c]pyrrole | 1.6 g, 99% | C(C)OC=NC1=C(C=2CN(CC2S1)C(=O)OCC)C(=O)OCC | C15H20N2O5S
